US04460788
40 parts of 2,3,4,5-tetrachloroaniline, 150 parts of phenol and 12 g of a moist palladium/charcoal catalyst already used for this reaction (1% strength, 8 g dry) are mixed, and the mixture is stirred in a tantalum autoclave for 6 hours after forcing in hydrogen up to a total pressure of from 16 to a maximum of 18 bar at 165° C. After the pressurised vessel has been cooled and the pressure released, the reaction mixture is diluted with water, toluene is added, and the mixture is rendered alkaline with sodium hydroxide solution. The catalyst is separated off by filtering under suction. The toluene phase is distilled, and 27.7 parts (=99% of yield) of 98.5% strength 3,5-dichloroaniline are obtained.

reactant | 2,3,4,5-tetrachloroaniline | ClC1=C(N)C=C(C(=C1Cl)Cl)Cl | C6H3Cl4N
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | palladium/charcoal | 12 g | [Pd] | Pd
solvent | hydrogen | [H][H] | H2
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tantalum | [Ta] | Ta
product | 3,5-dichloroaniline | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
